US04992577
11.475 g (0.05 mol) of 1,1,3-trichloro-4,4-dimethyl-1-hexen-5-one are dissolved in 150 ml of chloroform, and 8 g (0.05 mol) of bromine are added without cooling. The mixture is stirred for 3 hours at room temperature, and hydrogen bromide and solvent are distilled off in vacuo; the final residues are removed in a high vacuum. 15.5 g are obtained of crude 1,1,3-trichloro-6-bromo-4,4-dimethyl-1-hexen-5-one, the structure of which is confirmed by the 1H-NMR spectrum. It is used directly in the next stage:

reactant | 1,1,3-trichloro-4,4-dimethyl-1-hexen-5-one | 0.05 mol, 11.475 g | ClC(=CC(C(C(C)=O)(C)C)Cl)Cl | C8H11Cl3O
reactant | bromine | 0.05 mol, 8 g | BrBr | Br2
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | 1,1,3-trichloro-6-bromo-4,4-dimethyl-1-hexen-5-one | ClC(=CC(C(C(CBr)=O)(C)C)Cl)Cl | C8H10BrCl3O
